US05023278
o-allylphenol:
200 g of linear (NPCl2)n in benzene (total volume is about 2400 ml) is added (20 to 30 minutes) the alkyl or aryloxides prepared in a) in 1200 ml of THF and 2500 ml of benzene. The reaction mixture is then stirred at about 300° F. for twenty-four hours. Upon cooling, the polymer is coagulated by pouring into a ten gallon can containing two gallons of methanol with agitation. The solvents are then drawn off. Additional methanol may be added if the polymer does not separate cleanly from the solution. The solid, as free as possible of solvent, is then desalted by washing with water. The resulting chlorine-free polymer is dried at 50° to 60° C. under vacuum.

reactant | methanol | two gallons | CO | CH4O
reactant | THF | 1200 ml | C1CCOC1 | C4H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 2500 ml | C1=CC=CC=C1 | C6H6
product | o-allylphenol | C(C=C)C1=C(C=CC=C1)O | C9H10O
